US04711855
Five g (9.52 mmoles) of L-3,5-diiodothyronine (Sigma Chemical Company, St. Louis, Mo. 63178, Catalog No. D0629) was suspended in 50 ml of methanol (MCB, Norwood, Ohio 45212, Catalog No. MX0488-1). Dry hydrogen chloride was bubbled through the resulting suspension until the methanol was saturated with hydrogen chloride. The mixture warmed as the 3,5-diiodothyronine dissolved, resulting in a yellowish-green solution. The reaction mixture was allowed to stand for 16 hours at ambient temperature in a closed vessel. Dry hydrogen chloride was again passed through the reaction mixture. The reaction mixture was allowed to stand for an additional six hours in a closed vessel. The methanol was allowed to evaporate from the reaction mixture in a fume hood at ambient temperature, leaving 5.2 g (95% yield) of white, crystalline powder, 3,5-diiodothyronine methyl ester hydrochloride.

reactant | L-3,5-diiodothyronine | 9.52 mmoles | C1=CC(=CC=C1O)OC2=C(C=C(C=C2I)CC(C(=O)O)N)I | C15H13I2NO4
reactant | hydrogen chloride | Cl | ClH
reactant | methanol | 50 ml | CO | CH4O
product | 3,5-diiodothyronine methyl ester hydrochloride | 95% yield | Cl.COC([C@@H](N)CC1=CC(=C(C(=C1)I)OC1=CC=C(C=C1)O)I)=O | InChI=1S/C16H15I2NO4.ClH/c1-22-16(21)14(19)8-9-6-12(17)15(13(18)7-9)23-11-4-2-10(20)3-5-11;/h2-7,14,20H,8,19H2,1H3;1H/t14-;/m0./s1
